### ISSUE TITLE
`grind` crash: `PANIC […] assertion violation: numCases > 0`, `error: unknown constant '_inhabitedExprDummy'`

### ISSUE THREAD

**Issue by euprunin** [leanprover/lean4#9897]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

```
% cat grind-crash.lean
import Mathlib.Probability.IdentDistrib
noncomputable section
open MeasureTheory
open Filter
open Finset
open Set (indicator)
open scoped Topology
open scoped ENNReal
open scoped Function
namespace ProbabilityTheory
def truncation (f : α → ℝ) (A : ℝ) := indicator (Set.Ioc (-A) A) id ∘ f
variable {Ω : Type*} [MeasureSpace Ω] [IsProbabilityMeasure (ℙ : Measure Ω)]
variable (X : ℕ → Ω → ℝ) (hint : Integrable (X 0))
  (hindep : Pairwise (IndepFun on X)) (hident : ∀ i, IdentDistrib (X i) (X 0))
  (hnonneg : ∀ i ω, 0 ≤ X i ω)
include hint hident hnonneg in
theorem crash :
    ∀ᵐ ω, (fun n : ℕ => ∑ i ∈ range n, truncation (X i) i ω - ∑ i ∈ range n, X i ω) =o[atTop]
    fun n : ℕ => (n : ℝ) := by
  have A : (∑' j : ℕ, ℙ {ω | X j ω ∈ Set.Ioi (j : ℝ)}) < ∞ := by sorry
  have B : ∀ᵐ ω, Tendsto (fun n : ℕ => truncation (X n) n ω - X n ω) atTop (𝓝 0) := by
    filter_upwards [ae_eventually_notMem A.ne] with ω hω
    apply tendsto_const_nhds.congr' _
    filter_upwards [hω, Ioi_mem_atTop 0] with n hn npos
    simp only [truncation, indicator, Set.mem_Ioc, id, Function.comp_apply]
    grind
% lake env lean grind-crash.lean
…
error: unknown constant '_inhabitedExprDummy'
…
PANIC at _private.Lean.Meta.Tactic.Grind.Arith.Linear.Search.0.Lean.Meta.Grind.Arith.Linear.findCase Lean.Meta.Tactic.Grind.Arith.Linear.Search:213:4:
  assertion violation: numCases > 0
…
PANIC at _private.Lean.Meta.Tactic.Grind.Arith.Linear.Search.0.Lean.Meta.Grind.Arith.Linear.findCase Lean.Meta.Tactic.Grind.Arith.Linear.Search:220:2:
  unreachable code has been reached
```

### Context

See above.

### Steps to Reproduce

See above.

**Expected behavior:**

No `PANIC`.

**Actual behavior:**

```
PANIC at _private.Lean.Meta.Tactic.Grind.Arith.Linear.Search.0.Lean.Meta.Grind.Arith.Linear.findCase Lean.Meta.Tactic.Grind.Arith.Linear.Search:213:4:
  assertion violation: numCases > 0
PANIC at _private.Lean.Meta.Tactic.Grind.Arith.Linear.Search.0.Lean.Meta.Grind.Arith.Linear.findCase Lean.Meta.Tactic.Grind.Arith.Linear.Search:220:2:
  unreachable code has been reached
```

### Versions

Nightly.

### Additional Information

N/A

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by kim-em** [comment]
Mathlib-free minimization:

```
def Set' (α : Type u) := α → Prop

namespace Set'

protected def Mem (s : Set' α) (a : α) : Prop :=
  s a

instance : Membership α (Set' α) :=
  ⟨Set'.Mem⟩

end Set'

def Ioi' [LT α] (a : α) : Set' α := fun x => a < x

@[grind =] theorem mem_Ioi [LT α] {x a : α} : x ∈ Ioi' a ↔ a < x := Iff.rfl

theorem ProbabilityTheory.crash.extracted_1_3
    [LE α] [LT α] [DecidableEq α]
    [Lean.Grind.Ring α] [Lean.Grind.LinearOrder α] [Lean.Grind.OrderedRing α] (X : α → α)
  (hnonneg : ∀ (i : α), 0 ≤ X i) (n : α) (hn : X n ∉ Ioi' 0) :
  (if n = X n then 0 else 0) + X n = 0 := by grind
```
(and confirmed the crash is still here on the latest nightly).
